US07786329B2
(4R,5R)-3-dichloroacetyl-2,2-dimethyl-4-hydroxymethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine (Compound XIIa) (81 g, 0.2050 moles) in methylene chloride (450 ml) reacts with N,N-diethyl-1,1,2,3,3,3-hexafluoro-1-propanamine (Ishikawa Reagent) (73.2 g, 0.328 moles) at 95-105° C. for 2-4 hours. Cooling to 20-25° C., quenching with 25% aqueous sodium hydroxide and water (2000 mL) and separation of the methylene chloride layer gives a solution of (4S,5R)-3-dichloroacetyl-2,2-dimethyl-4-fluoromethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine (Compound XIIIa) for use as an intermediate for the next step in the process.

reactant | (4R,5R)-3-dichloroacetyl-2,2-dimethyl-4-hydroxymethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine | 0.2050 moles, 81 g | ClC(C(=O)N1C(O[C@@H]([C@H]1CO)C1=CC=C(C=C1)S(=O)(=O)C)(C)C)Cl | C15H19Cl2NO5S
reactant | N,N-diethyl-1,1,2,3,3,3-hexafluoro-1-propanamine | 0.328 moles, 73.2 g | C(C)N(C(C(C(F)(F)F)F)(F)F)CC | C7H11F6N
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
product | (4S,5R)-3-dichloroacetyl-2,2-dimethyl-4-fluoromethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)S(=O)(=O)C)(C)C)Cl | C15H18Cl2FNO4S
